US08957068B2
(S)-1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethanamine
To a solution of (S)-tert-butyl 1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethylcarbamate (168 mg, 0.47 mmol) in DCM (2 mL) was added TFA (2 mL, 26 mmol) slowly at −78° C. The reaction was stirred at room temperature for 1 h then concentrated and diluted with DCM (10 mL). The solution was stirred with 3 eq. of MP-carbonate resin (3.28 mmol/g, Biotage) for 1 hour at room temperature. The resin was removed by filtration and washed (2×5 mL) with DCM. The filtrate was concentrated and the crude residue was used to next step without further purification.

reactant | (S)-tert-butyl 1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethylcarbamate | 0.47 mmol, 168 mg | N=1N=CN2C1CN(CC2)CC2=CC=C(C=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H27N5O2
reactant | TFA | 26 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MP-carbonate resin | 3 eq. | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethanamine | N=1N=CN2C1CN(CC2)CC2=CC=C(C=C2)[C@H](C)N | C14H19N5
